US03998958
After dissolving 5.4 g. (0.055 mole) of 2 -imino-1 -methylpyrrolidine in dry benzene, 9.85 g. (0.055 mole) of 3,4 -dimethoxyphenylisocyanate (prepared according to the method of J. G. Lombardino and C. T. Gerber, J. Med. Chem., 7, Jan. 1964, p. 101 ), dissolved in dry benzene, is added dropwise to the solution. The reaction mixture is stirred at room temperature overnight (about 16 hrs.). The solvent is evaporated in vacuo and the residue, which solidifies on cooling, is triturated with anhydrous methanol. Repeated recrystallizations from methanol yields the pure product, 1 -(1 -methyl-2 -pyrrolidylidene)- 3 -(3,4 -dimethoxyphenyl)urea, m.p. = 118-120° C.

reactant | 2 -imino-1 -methylpyrrolidine | 0.055 mole | N=C1N(CCC1)C | C5H10N2
reactant | 3,4 -dimethoxyphenylisocyanate | 0.055 mole | COC=1C=C(C=CC1OC)N=C=O | C9H9NO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1 -(1 -methyl-2 -pyrrolidylidene)- 3 -(3,4 -dimethoxyphenyl)urea | CN1C(CCC1)=NC(=O)NC1=CC(=C(C=C1)OC)OC | C14H19N3O3
